Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Aleve
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ - Thoracentesis

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:00AM BLOOD WBC-13.0* RBC-2.40* Hgb-8.1* Hct-25.1* 
MCV-105* MCH-33.8* MCHC-32.3 RDW-18.0* RDWSD-68.0* Plt ___
___ 11:00AM BLOOD Neuts-83.9* Lymphs-2.9* Monos-11.6 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-10.89* AbsLymp-0.38* 
AbsMono-1.51* AbsEos-0.03* AbsBaso-0.04
___ 03:51AM BLOOD ___ PTT-42.7* ___
___ 11:00AM BLOOD Glucose-179* UreaN-27* Creat-1.6* Na-137 
K-4.4 Cl-100 HCO3-22 AnGap-15
___ 11:00AM BLOOD ALT-10 AST-10 LD(LDH)-158 AlkPhos-137* 
TotBili-0.3
___ 01:58PM BLOOD ___
___ 01:58PM BLOOD cTropnT-0.85*
___ 11:00AM BLOOD Albumin-3.3* Calcium-9.5 Phos-3.1 Mg-1.6 
UricAcd-7.4*
___ 05:55PM BLOOD ___ pO2-42* pCO2-34* pH-7.36 
calTCO2-20* Base XS--5 Intubat-NOT INTUBA

PERTINENT STUDIES
=================
___ 01:58PM BLOOD cTropnT-0.85*
___ 05:44PM BLOOD cTropnT-1.58*
___ 11:42PM BLOOD cTropnT-1.45*
___ 03:51AM BLOOD cTropnT-1.63*
___ 02:55PM BLOOD cTropnT-1.10*

___ 09:30AM PLEURAL TNC-394* RBC-2243* Polys-8* Lymphs-90* 
___ Macro-2*
___ 09:30AM PLEURAL TotProt-1.7 Glucose-153 Creat-1.7 
LD(LDH)-121 Albumin-1.0 Cholest-20 ___
___ 03:03PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG

Pleural fluid cytology ___
NEGATIVE FOR MALIGNANT CELLS.

Pleural fluid flow cytometry ___
Diagnostic immunophenotypic features of involvement by 
leukemia/lymphoma are not seen in this specimen.

MRSA Screen ___
Negative

IMAGING
=======
CT Chest without contrast ___
1. Interlobular septal thickening, ground glass opacification, 
bronchial 
cuffing, left greater than right moderate pleural effusions, 
small pericardial effusion, and engorgement of the azygos vein.  
Findings are consistent with interstitial pulmonary edema. 
2. Unchanged mediastinal, hilar, and right axillary 
lymphadenopathy. 
3. Extensive coronary artery and atherosclerotic calcification.  
Extensive 
aortic valve calcifications. 
4. Dilated, debris filled esophagus suggestive of dysmotility. 

TTE ___
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There are moderate to extensive areas of 
severe regional left ventricular systolic dysfunction with 
akinesis of the distal ___
of the left ventricle (see schematic). A left ventricular 
thrombus/mass cannot be excluded. Quantitative 3D volumetric 
left ventricular ejection fraction is 30 % (normal 54-73%). 
Global longitudinal strain is depressed (-3.6 %; normal less 
than -20%) Normal right ventricular cavity size with normal free 
wall motion. The aortic valve is not well seen. The mitral valve 
leaflets appear structurally normal with no mitral valve 
prolapse. The pulmonic valve leaflets are not well seen. The 
tricuspid valve is not well seen. The pulmonary artery systolic 
pressure could not be estimated. There is a trivial pericardial 
effusion.
IMPRESSION: Focused study. Moderate to severe regional left 
ventricular systolic dysfunction c/w Tak___'s cardiomyopathy 
or CAD in an LAD distribution. Normal right ventricular cavity 
size and systolic function.

CXR ___
Comparison to ___.  Substantial decrease in extent of 
the left 
pleural effusion after placement of a pigtail catheter in the 
left pleural 
space.  Milli metric apical left-sided pneumothorax without 
evidence of 
tension.  Stable appearance of the heart and of the right lung. 

TTE ___
EF 24%. Focused study. Mild LVH with severe LV Systolic 
dysfunction including akinetic aneurysmal apex; basal lateral 
and anterior walls contract best. Moderate mitral regurgitation. 
No LV thrombus.

DISCHARGE LABS
==============
___ 12:00AM BLOOD WBC-7.6 RBC-2.20* Hgb-7.1* Hct-22.5* 
MCV-102* MCH-32.3* MCHC-31.6* RDW-17.8* RDWSD-65.4* Plt ___
___ 12:00AM BLOOD Glucose-119* UreaN-35* Creat-1.5* Na-142 
K-4.0 Cl-107 HCO3-19* AnGap-16
___ 12:00AM BLOOD ALT-12 AST-10 LD(LDH)-231 AlkPhos-147* 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.3* Calcium-8.7 Phos-2.3* Mg-1.8

 
Brief Hospital Course:
PATIENT SUMMARY
===============
___ year old male with history of CAD and MI (s/p DES to the 
proximal LAD at ___ on ___, on aspirin/clopidogrel), new 
HFrEF (LVEF 27% on ___, complication of anthracycline), COPD 
(2L O2 baseline requirement), CKD, left vocal cord 
paralysis/aspiration, DLBCL on cycle 5 of R-CHOP, IDDM who 
presented with shortness of breath to ___ found to be 
hyperglycemic to the 500s, with type 2 NSTEMI, HFrEF 
exacerbation c/b left sided pleural effusion, and acute hypoxic 
respiratory failure. His shortness of breath resolved with 
thoracentesis and diuresis.

TRANSITIONAL ISSUES 
==================== 
[] Discharge weight: 140.1 lbs
[] Discharge creatinine: 1.5
[] Discharge oxygen requirement: Room air
[] Torsemide was decreased from 60mg QD to 20mg QD due to 
elevated creatinine and euvolemia on exam. Please continue to 
monitor daily weights, volume status and creatinine.
[] If weight increases by > 3 lb, increase torsemide to 40 mg 
daily and repeat chemistry panel the following day. If weight 
decreases by more than 3 lb, hold torsemide until weight is back 
to baseline. 
[] Midodrine was stopped as patient was not orthostatic and was 
able to ambulate without symptoms. Please continue to monitor 
orthostatics.
[] Please ensure patient follows up with Dr. ___ 
further management of his DLBCL
[] Based on overall prognosis after this cycle of chemotherapy, 
please consider pursuing ICD placement
[] Please ensure patient makes an appointment to see his PCP, 
___, MD, ___ after leaving rehab.
[] Diabetes management:
 - Target BG 140-220
 - Plan: Lantus insulin to 10 units with breakfast 
 - Monitor BG before breakfast, lunch and dinner 
 - Use correction scale of Humalog to treat BG ___ 2 unit
 201-250 4 units
 251-300 6 units
 301-350 8 units
 351-400 10 units
 >400 12 units
* If the patient is to receive prednisone 100 mg - recommend to 
increase the lantus during those FIVE days to 15 units with 
breakfast

MEDICATION CHANGES: 
- NEW: 
 - Insulin glargine
 - Allopurinol
- STOPPED:
 - Midodrine
 - ___ insulin
 - Cetirizine
 - Temazepam
- CHANGED:
 - Torsemide decreased from 60 mg QD to 20 mg QD
 - Metoprolol succinate increased from 25 mg QD to 37.5 mg QD

ACUTE ISSUES
=============
#Hypoxemic respiratory failure
Presented with subjective worsening of dyspnea with increased O2 
requirements from baseline of 2 L O2. His respiratory failure 
thought to be multifactorial secondary to COPD, acute systolic 
heart failure exacerbation, pleural effusion, and COPD. He was 
treated with 5 days of empiric antibiotics, initially broad 
spectrum, then de-escalated to CAP coverage. Infectious workup 
was negative. He was treated with prednisone (post-chemotherapy 
dosing) and nebulizer treatments. He was given IV diuresis and 
seen by IP with placement of L sided chest tube. His breathing 
improved and he was satting well on room air prior to discharge.

#NSTEMI
#CAD and recent DES of the proximal LAD on ___
Presented with troponemia in setting of recent DES. He was 
initially medically managed with heparin gtt, which was later 
discontinued in consultation with cardiology when it was felt 
his presentation was more consistent with demand ischemia. He 
was continued on atorvastatin 80 mg daily, aspirin 81 mg daily, 
clopidogrel 75 mg daily, metoprolol succinate.

#NSVT
He had multiple episodes of NSVT during his hospitalization. He 
was asymptomatic and hemodynamically stable during these 
episodes. His metoprolol succinate was increased from 25 mg to 
37.5 mg QD. The patient was amenable to ICD implantation despite 
being DNR/DNI, but further workup was deferred pending 
clarification of his cancer prognosis.

#Heart failure with reduced ejection fraction (EF 24%)
TTE on ___ with moderate to severe regional LV dysfunction, 
normal RV. He was given IV diuresis. He was given IV diuresis in 
setting of pulmonary edema, otherwise did not appear 
decompensated. He was treated with the above medications. 

#DM II
#Hyperglycemia
Patient presented with glucose in 500s on presentation to OSH 
___ to infection and prednisone that improved with insulin gtt. 
After prednisone was stopped he became hypoglycemic to the ___ 
his home regimen (Novolin 70/40 23U in AM, 20U in ___. ___ 
was consulted and he was started on Lantus 5 QAM with ISS. 
Target BG 140-220, which is age appropriate. 

# Orthostatic hypotension
Possibly related to vincristine-induced autonomic dysfunction. 
Midodrine was held on admission.
Orthostatics were negative and the patient was able to ambulate 
with ___ without symptoms. He was discharged off of midodine.

#Acute on chronic kidney injury
Creatinine peaked at 2.0 after diuresis. Diuretics were held 
after patient was transferred to ___ and creatinine decreased to 
1.6. He was restarted on decreased dose of torsemide, 20 mg QD 
(decreased from home dose of 60 mg QD). He remained euvolemic 
with a stable creatinine on this dose prior to discharge.

CHRONIC ISSUES
===============
#DLBCL s/p R-CDOP and pegfilgastrim (Cycle 5)
Followed by Dr. ___ at ___. He was continued on 
atovaquone, acyclovir 400 mg Q12 H. He was restarted on 
allopurinol given an elevated uric acid level.

#Left vocal cord paralysis/Dysphagia/Aspiration
History of aspiration on evaluation by ___. Patient accepted 
aspiration risk with regular diet. 

#Anemia
Acute on chronic. Recently received chemotherapy. He received 1 
u pRBC during his ICU course.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
2. Acyclovir 400 mg PO Q12H 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Aspirin 81 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
7. Atovaquone Suspension 1500 mg PO DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Famotidine 20 mg PO Q24H 
11. Torsemide 40 mg PO DAILY 
12. Midodrine 7.5 mg PO TID 
13. Metoprolol Succinate XL 25 mg PO DAILY 
14. Atorvastatin 80 mg PO QPM 
15. Temazepam 30 mg PO QHS 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Glargine 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
3.  Metoprolol Succinate XL 37.5 mg PO DAILY  
4.  Torsemide 20 mg PO DAILY  
5.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
6.  Acyclovir 400 mg PO Q12H  
7.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 80 mg PO QPM  
10.  Atovaquone Suspension 1500 mg PO DAILY  
11.  Clopidogrel 75 mg PO DAILY  
12.  Famotidine 20 mg PO Q24H  
13.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
14.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- Congestive heart failure exacerbation

Secondary diagnoses:
- Chronic obstructive pulmonary disease
- Insulin dependent diabetes mellitus
- Diffuse large B cell lymphoma
- Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having 
increased shortness of breath.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were initially admitted to the intensive care unit where 
you had several treatments to improve your breathing. You had 
the fluid drained from your lung with a needle (thoracentesis). 
You were given water pills to remove extra fluid from your 
lungs. You were also given inhaled medications to decrease the 
inflammation in your lungs and make it easier for you to breath. 
Your breathing improved with these treatments and you no longer 
required supplemental oxygen by the end of your hospital stay.
- You were given 5 days of antibiotics because we were 
suspicious that you might have an infection in your lungs 
(pneumonia) when you first came in. We sent several tests to 
look for an infection, however, and these all came back 
negative. Consequently, we stopped your antibiotics.
- Your water pill, torsemide, was decreased from 60 mg once a 
day to 20 mg once a day. 
- You blood pressure medication, midodrine, was stopped because 
your blood pressure was well controlled during your admission.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?   
- Please weigh yourself every day. If your weight increases by > 
3 lb, increase your torsemide to 40 mg daily. If your weight 
decreases by more than 3 lb, stop taking your torsemide until 
your weight returns to normal. 
- If you start to become lightheaded when standing up from 
sitting, or you faint, please call your doctor to discuss 
re-starting midodrine.
- Please attend you oncology appointment on ___ at 9:00 
AM at the ___ on the ___ floor
- Please attend your appointment with the diabetes doctors on 
___ at 1:00 ___ at ___ located at ___ 
___, ___. ___. 
- Please make an appointment to see your PCP, ___, 
___ after leaving rehab.

We wish you the best.

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___